US07851626B2
To a solution of 2-hydroxy-4-trifluoromethyl-benzoic acid (5 g, 24.258 mmol, Matrix Scientific) in ethanol (50 mL) were added potassium carbonate (8.38 g, 60.645 mmol) and ethyl iodide (7.68 mL, 97.032 mmol). The reaction mixture was heated at gentle reflux for 4 h then concentrated in vacuo. The residue was taken in petroleum ether and water, and the layers were separated. The product was extracted with petroleum ether (1×). The organic layers were washed with brine (1×), dried over anhydrous sodium sulfate, filtered and concentrated. Purification of the crude residue by flash chromatography (40 g of silica gel, eluting with 10% ethyl acetate in hexane) gave 2-ethoxy-4-trifluoromethyl-benzoic acid ethyl ester as colorless oil (4.68 g, 74%).

reactant | 2-hydroxy-4-trifluoromethyl-benzoic acid | 24.258 mmol, 5 g | OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H5F3O3
reactant | potassium carbonate | 60.645 mmol, 8.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 97.032 mmol, 7.68 mL | C(C)I | C2H5I
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | 2-ethoxy-4-trifluoromethyl-benzoic acid ethyl ester | 4.68 g, 74% | C(C)OC(C1=C(C=C(C=C1)C(F)(F)F)OCC)=O | C12H13F3O3
